US04182759
Diethyl [6-(4-carbethoxyphenoxy)hexyl]phosphonate
[I; Ar is 4-C2H5OOCC6H4, Y is O(CH2)6, R is C2H5 ] was prepared from 15 g of 6-(4-carbethoxyphenoxy)hexyl bromide, 8.3 g of triethyl phosphite and a crystal of sodium iodide as a catalyst, according to the procedure of Example 1, and had the b.p. 190°-196° C. (0.2 mm); yield 9.5 g; MIC vs. herpes simplex type 2=6 mcg/ml. The IR and NMR spectra were consistent with the assigned structure.

reactant | 6-(4-carbethoxyphenoxy)hexyl bromide | 15 g | C(=O)(OCC)C1=CC=C(OCCCCCCBr)C=C1 | C15H21BrO3
reactant | triethyl phosphite | 8.3 g | P(OCC)(OCC)OCC | C6H15O3P
catalyst | sodium iodide | [I-].[Na+]
product | Diethyl [6-(4-carbethoxyphenoxy)hexyl]phosphonate | C(=O)(OCC)C1=CC=C(OCCCCCCP(OCC)(OCC)=O)C=C1 | C19H31O6P
